US05989451
A solution of 4-methyl-2-nitroanisole (Aldrich) (10 g, 0.06 mol) in 100 ml of absolute ethanol was hydrogenated in the presence of 0.25 g of Pd/C (10%) at room temperature. The catalyst was removed by filtration and the clear solution was concentrated to give 2-amino -4-methylanisole as a white solid. To this solid was added 70 ml of acetic anhydride and a few drops of concentrated sulfuric acid. After stirring for 1 h, the mixture was poured into ice/water and the precipitated product was filtered and dried to give 9.48 g (88%) of S1 as a white solid.

reactant | 4-methyl-2-nitroanisole | 0.06 mol, 10 g | CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C8H9NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 2-amino -4-methylanisole | NC1=C(C=CC(=C1)C)OC | C8H11NO
